US04937246
To a mixture of 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (0.6 g), sodium bicarbonate (5 g), ethyl acetate (20 ml) and water (20 ml) is added, with stirring at room temperature, 3,4,5-trimethoxybenzoyl chloride (0.61 g), followed by stirring for 30 minutes. The ethyl acetate layer is separated, washed with water, dried, and concentrated under reduced pressure. The residue is dissolved in ethanol (10 ml). To the solution is added a solution of hydrogen chloride - ethanol (1 ml). The mixture is diluted with ethyl ether (100 ml) to give 1-(3,4,5-trimethoxybenzoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride (0.6 g) as colorless needles, m.p. 200°-205° C. (decomp.).

reactant | 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 0.6 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | sodium bicarbonate | 5 g | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
reactant | 3,4,5-trimethoxybenzoyl chloride | 0.61 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
solvent | water | 20 ml | O | H2O
product | 1-(3,4,5-trimethoxybenzoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride | 0.6 g | Cl.COC=1C=C(C(=O)N2CCN(CC2)CC2=CC(=C(C(=C2)OC)OC)OC)C=C(C1OC)OC | InChI=1S/C24H32N2O7.ClH/c1-28-18-11-16(12-19(29-2)22(18)32-5)15-25-7-9-26(10-8-25)24(27)17-13-20(30-3)23(33-6)21(14-17)31-4;/h11-14H,7-10,15H2,1-6H3;1H
